* Equivalent circuit model for output\final_tissue_model.sp
.SUBCKT final_tissue_model po1
Vsp1 po1 p1 0
Vsr1 p1 pr1 0
Rp1 pr1 0 50
Ru1 u1 0 50
Fr1 u1 0 Vsr1 -1
Fu1 u1 0 Vsp1 -1
Ry1 y1 0 1
Gy1 p1 0 y1 0 -0.02
Rx1 x1 0 1
Fxc1_2 x1 0 Vx2 5.86130391989747
Cx1 x1 xm1 1.46856654243547e-12
Vx1 xm1 0 0
Gx1_1 x1 0 u1 0 -0.279619421360313
Rx2 x2 0 1
Fxc2_1 x2 0 Vx1 -0.620579327640843
Cx2 x2 xm2 1.46856654243547e-12
Vx2 xm2 0 0
Gx2_1 x2 0 u1 0 0.173526032503104
Rx3 x3 0 1
Fxc3_4 x3 0 Vx4 80.9499481934788
Cx3 x3 xm3 7.39722361189313e-13
Vx3 xm3 0 0
Gx3_1 x3 0 u1 0 -9.97147931533397e-06
Rx4 x4 0 1
Fxc4_3 x4 0 Vx3 -7.55570869177658
Cx4 x4 xm4 7.39722361189313e-13
Vx4 xm4 0 0
Gx4_1 x4 0 u1 0 7.53415929327393e-05
Rx5 x5 0 1
Fxc5_6 x5 0 Vx6 27.2203323479575
Cx5 x5 xm5 8.71844318470942e-13
Vx5 xm5 0 0
Gx5_1 x5 0 u1 0 -1.05690345109146e-05
Rx6 x6 0 1
Fxc6_5 x6 0 Vx5 -22.3922831833018
Cx6 x6 xm6 8.71844318470942e-13
Vx6 xm6 0 0
Gx6_1 x6 0 u1 0 0.000236664813742489
Rx7 x7 0 1
Fxc7_8 x7 0 Vx8 33.5105252778329
Cx7 x7 xm7 1.07924822688774e-11
Vx7 xm7 0 0
Gx7_1 x7 0 u1 0 -0.0019429494533759
Rx8 x8 0 1
Fxc8_7 x8 0 Vx7 -0.19268590424448
Cx8 x8 xm8 1.07924822688774e-11
Vx8 xm8 0 0
Gx8_1 x8 0 u1 0 0.000374378972325054
Rx9 x9 0 1
Fxc9_10 x9 0 Vx10 1.43618067934726
Cx9 x9 xm9 1.98065755998233e-12
Vx9 xm9 0 0
Gx9_1 x9 0 u1 0 -1.84132932022582e-06
Rx10 x10 0 1
Fxc10_9 x10 0 Vx9 -152.546960067658
Cx10 x10 xm10 1.98065755998233e-12
Vx10 xm10 0 0
Gx10_1 x10 0 u1 0 0.000280889190283896
Rx11 x11 0 1
Fxc11_12 x11 0 Vx12 5.93909138018693
Cx11 x11 xm11 2.43895928456313e-12
Vx11 xm11 0 0
Gx11_1 x11 0 u1 0 -8.07521991715815e-06
Rx12 x12 0 1
Fxc12_11 x12 0 Vx11 -52.3093198243621
Cx12 x12 xm12 2.43895928456313e-12
Vx12 xm12 0 0
Gx12_1 x12 0 u1 0 0.000422409261298685
Rx13 x13 0 1
Fxc13_14 x13 0 Vx14 3.51879226418425
Cx13 x13 xm13 1.14967492367363e-11
Vx13 xm13 0 0
Gx13_1 x13 0 u1 0 -3.35004891630296e-05
Rx14 x14 0 1
Fxc14_13 x14 0 Vx13 -16.6437658944621
Cx14 x14 xm14 1.14967492367363e-11
Vx14 xm14 0 0
Gx14_1 x14 0 u1 0 0.000557574298979431
Rx15 x15 0 1
Cx15 x15 0 7.25456370731227e-10
Gx15_1 x15 0 u1 0 -0.315336913767079
Rx16 x16 0 1
Cx16 x16 0 2.8970918729843e-09
Gx16_1 x16 0 u1 0 -0.479482333778384
Gyc1_1 y1 0 x1 0 -1
Gyc1_2 y1 0 x2 0 -1
Gyc1_3 y1 0 x3 0 -1
Gyc1_4 y1 0 x4 0 -1
Gyc1_5 y1 0 x5 0 -1
Gyc1_6 y1 0 x6 0 -1
Gyc1_7 y1 0 x7 0 -1
Gyc1_8 y1 0 x8 0 1
Gyc1_9 y1 0 x9 0 -1
Gyc1_10 y1 0 x10 0 -1
Gyc1_11 y1 0 x11 0 1
Gyc1_12 y1 0 x12 0 1
Gyc1_13 y1 0 x13 0 -1
Gyc1_14 y1 0 x14 0 1
Gyc1_15 y1 0 x15 0 1
Gyc1_16 y1 0 x16 0 1
.ENDS
